US09334290B2
A solution of 2-amino-N-(3-bromo-2-methylphenyl)-3-methoxybenzamide (302 mg, 0.901 mmol) and triphosgene (321 mg, 1.081 mmol) in THF (20 mL) was stirred at room temperature for 2 h. The mixture was treated carefully with saturated aqueous NaHCO3 and stirred until gas evolution ceased. The mixture was extracted twice with DCM, and the combined organic phases were washed with water, dried and concentrated to provide 3-(3-bromo-2-methylphenyl)-8-methoxyquinazoline-2,4(1H,3H)-dione (339 mg) which was used without further purification. Mass spectrum m/z 361, 363 (M+H)+.

reactant | 2-amino-N-(3-bromo-2-methylphenyl)-3-methoxybenzamide | 0.901 mmol, 302 mg | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=CC=C1OC | C15H15BrN2O2
reactant | triphosgene | 1.081 mmol, 321 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)-8-methoxyquinazoline-2,4(1H,3H)-dione | 339 mg | BrC=1C(=C(C=CC1)N1C(NC2=C(C=CC=C2C1=O)OC)=O)C | C16H13BrN2O3
